### PR TITLE
feat(Topology/CWComplex/Classical/Basic.lean): basic lemmas about CW complexes

### PR DESCRIPTION
**Pull request by scholzhannah**
This PR has a few basic lemmas about (classical) CW complexes that will be necessary for the addition of subcomplexes. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 1]
```diff
@@ -222,6 +222,34 @@ lemma RelCWComplex.map_zero_mem_closedCell [RelCWComplex C D] (n : ℕ) (i : cel
     map n i 0 ∈ closedCell n i :=
   openCell_subset_closedCell _ _ (map_zero_mem_openCell _ _)
 
+/-- This is an auxiliary lemma used to prove `RelCWComplex.eq_of_eq_union_iUnion`. -/
+private lemma RelCWComplex.subset_of_eq_union_iUnion [RelCWComplex C D] (I J : Π n, Set (cell C n))
+    (hIJ : D ∪ ⋃ (n : ℕ) (j : I n), openCell (C := C) n j =
+      D ∪ ⋃ (n : ℕ) (j : J n), openCell (C := C) n j) (n : ℕ) : I n ⊆ J n := by
```
Comment (grunweg) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]: Can you e.g. add a line break after the colon, before the statement, please? It's too easy to overlook it right now.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 2]
```diff
@@ -222,6 +222,34 @@ lemma RelCWComplex.map_zero_mem_closedCell [RelCWComplex C D] (n : ℕ) (i : cel
...
+      (subset_iUnion_of_subset n (subset_iUnion_of_subset ⟨i, hi⟩ (subset_refl (openCell n i)))) D
+  have h' : Disjoint (openCell n i) (D ∪ ⋃ n, ⋃ (j : J n), openCell (C := C) n j) := by
+    simp_rw [disjoint_union_right, disjoint_iUnion_right]
+    exact ⟨disjointBase n i, fun m j ↦ disjoint_openCell_of_ne (by aesop)⟩
+  rw [disjoint_of_subset_iff_left_eq_empty h] at h'
+  exact not_mem_empty _ (h' ▸ map_zero_mem_openCell n i)
+
+lemma RelCWComplex.eq_of_eq_union_iUnion [RelCWComplex C D] (I J : Π n, Set (cell C n))
+    (hIJ : D ∪ ⋃ (n : ℕ) (j : I n), openCell (C := C) n j =
+      D ∪ ⋃ (n : ℕ) (j : J n), openCell (C := C) n j) : I = J := by
```
Comment (grunweg) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]: Same here

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 3]
```diff
@@ -222,6 +222,34 @@ lemma RelCWComplex.map_zero_mem_closedCell [RelCWComplex C D] (n : ℕ) (i : cel
...
+  ext n x
+  exact ⟨fun h ↦ subset_of_eq_union_iUnion I J hIJ n h,
+    fun h ↦ subset_of_eq_union_iUnion J I hIJ.symm n h⟩
+
+lemma CWComplex.eq_of_eq_union_iUnion [CWComplex C] (I J : Π n, Set (cell C n))
+    (hIJ : ⋃ (n : ℕ) (j : I n), openCell (C := C) n j =
+      ⋃ (n : ℕ) (j : J n), openCell (C := C) n j) : I = J := by
```
Comment (grunweg) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean]: and here

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 4]
```diff
@@ -571,6 +599,20 @@ lemma CWComplex.iUnion_openCell_eq_skeleton [CWComplex C] (n : ℕ∞) :
...
+lemma RelCWComplex.iUnion_skeletonLT_eq_complex [RelCWComplex C D] :
+    ⋃ (n : ℕ), skeletonLT C n = C := by
+  apply subset_antisymm (iUnion_subset_iff.2 fun _ ↦ skeletonLT_subset_complex)
+  simp_rw [← union_iUnion_openCell_eq_complex , union_subset_iff, iUnion₂_subset_iff]
+  exact ⟨subset_iUnion_of_subset 0 (base_subset_skeletonLT ↑0),
+    fun n i ↦ subset_iUnion_of_subset _ (openCell_subset_skeletonLT n i)⟩
+
+lemma RelCWComplex.iUnion_skeleton_eq_complex [RelCWComplex C D] :
+    ⋃ (n : ℕ), skeleton C n = C := by
+  apply subset_antisymm (iUnion_subset_iff.2 fun _ ↦ skeleton_subset_complex)
```
Comment (grunweg) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:666]: This is also exactly the same proof as above. Is there a way to unify these two proofs?

**Review by grunweg — COMMENTED** [review]
Looks good; thanks! I just have a few comments.

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 4 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean:666]: I tried but because of the shift by one the proof just got longer.

**Comment by scholzhannah** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/25973
